### PR TITLE
[Merged by Bors] - feat(Data/Matroid/Closure): matroid closure lemmas

### PR DESCRIPTION
**Pull request by apnelson1**
This PR adds a few lemmas about matroid closure, and its interaction with restrictions, independence and bases. 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Matroid/Closure.lean [hunk 1]
```diff
@@ -519,11 +552,28 @@ lemma basis_iff_indep_closure : M.Basis I X ↔ M.Indep I ∧ X ⊆ M.closure I
...
+    (inter_subset_inter_left _ (h.trans (M.closure_subset_closure inter_subset_left))))
+
 lemma Basis.eq_of_closure_subset (hI : M.Basis I X) (hJI : J ⊆ I) (hJ : X ⊆ M.closure J) :
     J = I := by
   rw [← hI.indep.closure_inter_eq_self_of_subset hJI, inter_eq_self_of_subset_right]
   exact hI.subset.trans hJ
 
+lemma Basis.insert_basis_insert_of_not_mem_closure (hIX : M.Basis I X) (heI : e ∉ M.closure I)
+    (heE : e ∈ M.E := by aesop_mat) : M.Basis (insert e I) (insert e X) := by
+  refine hIX.insert_basis_insert ?_
```
Comment (madvorak) [inline Mathlib/Data/Matroid/Closure.lean:573]: Does `apply` work?

File: Mathlib/Data/Matroid/Closure.lean [hunk 2]
```diff
@@ -753,5 +852,128 @@ lemma ext_spanning {M M' : Matroid α} (h : M.E = M'.E)
...
+    (M.map f hf).closure X = f '' M.closure (f ⁻¹' X) := by
+  suffices h' : ∀ X ⊆ f '' M.E, (M.map f hf).closure X = f '' (M.closure (f ⁻¹' X)) by
+    convert h' (X ∩ f '' M.E) inter_subset_right using 1
+    · rw [← closure_inter_ground]; rfl
+    rw [preimage_inter, eq_comm, ← closure_inter_ground, inter_assoc,
+      hf.preimage_image_inter Subset.rfl, closure_inter_ground]
+  clear X
+  intro X hX
+  obtain ⟨I, hI⟩ := (M.map f hf).exists_basis X
+
```
Comment (madvorak) [inline Mathlib/Data/Matroid/Closure.lean:946]: The way you use empty lines is unusual, but I don't mind.

File: Mathlib/Data/Matroid/Closure.lean (hunk 1 above)
Comment (apnelson1) [reply Mathlib/Data/Matroid/Closure.lean:573]: Presumably yes. But I always think of `apply` as doing more work than `refine` and being more opaque, so I prefer the latter.

File: Mathlib/Data/Matroid/Closure.lean [hunk 3]
```diff
@@ -753,5 +849,123 @@ lemma ext_spanning {M M' : Matroid α} (h : M.E = M'.E)
...
+@[simp] lemma comap_closure_eq {β : Type*} (M : Matroid β) (f : α → β) (X : Set α) :
+    (M.comap f).closure X = f ⁻¹' M.closure (f '' X) := by
+  obtain ⟨I, hI⟩ := (M.comap f).exists_basis' X
+  obtain ⟨hI', hIinj, -⟩ := comap_basis'_iff.1 hI
+  rw [← hI.closure_eq_closure]
+  ext x
+  obtain (hxE | hxE) := em' (f x ∈ M.E)
+  · apply iff_of_false <;> exact (fun h ↦ hxE (by simpa using mem_ground_of_mem_closure h))
+
```
Comment (jcommelin) [inline Mathlib/Data/Matroid/Closure.lean:917]: I'm guessing you are adding empty lines to indicate a "new step" in the proof?
Please use the empty line as an opportunity to add a short comment instead.

Similarly below.

**Review by jcommelin — COMMENTED** [review]
bors d+
